US07816357B2
Preparation of 7,8-Bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione
To a r.b. flask was added 6-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (100 mg, 0.256 mmol), prepared as described in Example 1F, THF (5 ml) and potassium trimethylsilanolate (132 mg, 1.026 mmol). The reaction mixture was stirred at 85° C. for 1.5 hrs. After this time, the solution was cooled to RT and the reaction was diluted with water (25 ml). The pH of the solution was adjusted to 4 with 1N HCl. The resultant solution was extracted with EtOAc (3×20 ml). The combined organic layers were washed with water (20 ml), saturated NaCl (20 ml). The organic layers was dried (MgSO4), filtered and concentrated to give the title compound, 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione (90 mg, 95% yield) as yellow solid. MS (M+H)=372.9.

reactant | 6-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.256 mmol, 100 mg | ClC=1C(=C(C=2N(N1)C(NN2)=O)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl | C17H9Cl3N4O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | potassium trimethylsilanolate | 1.026 mmol, 132 mg | C[Si]([O-])(C)C.[K+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione | 90 mg, 95% yield | ClC1=CC=C(C=C1)C1=C(C=2N(NC1=O)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O2
